US05519034
Sodium cyanoborohydride (10.7 g) was added at 0° C. to a mixture of 1-[1-(2-chlorophenyl)cyclopropyl]-6-fluoro-7-methoxy-3,4-dihydroisoquinoline (26.7 g, prepared in a similar manner to that described above), acetic acid (185 ml) and methanol (95 ml) under nitrogen. The mixture was allowed to reach ambient temperature and was stirred for 22 hours. The mixture was poured onto water, and solid sodium hydroxide (150 g) in ice-water (500 ml) was added. The product was extracted into ether and the solvent then removed in vacuo to yield 1-[1-(2-chlorophenyl)cyclopropyl]-6-fluoro-7-methoxy-1,2,3,4-tetrahydroisoquinoline as a gum.

reactant | Sodium cyanoborohydride | 10.7 g | C(#N)[BH3-].[Na+]
reactant | 1-[1-(2-chlorophenyl)cyclopropyl]-6-fluoro-7-methoxy-3,4-dihydroisoquinoline | ClC1=C(C=CC=C1)C1(CC1)C1=NCCC2=CC(=C(C=C12)OC)F | C19H17ClFNO
reactant | acetic acid | 185 ml | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 150 g | [OH-].[Na+]
solvent | methanol | 95 ml | CO | CH4O
product | 1-[1-(2-chlorophenyl)cyclopropyl]-6-fluoro-7-methoxy-1,2,3,4-tetrahydroisoquinoline | ClC1=C(C=CC=C1)C1(CC1)C1NCCC2=CC(=C(C=C12)OC)F | C19H19ClFNO
